### PR TITLE
Prove set_call_unobs

### PR DESCRIPTION
**Pull request by bMacSwigg**
This is a continuation of #1710 (because I made some git mistakes).

### CODE REVIEW

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 1]
```diff
@@ -279,7 +279,19 @@ Theorem set_call_unobs: forall ell s id c,
...
-Admitted.
+    intros. unfold fnd in H. split; intros; simpl; subst.
+    (* chan_state_low_proj *)
+    2: unfold s_set_call, chan_state_low_proj; destruct_match; auto.
+    (* node_state_low_proj *)
+    unfold node_state_low_proj, s_set_call.
+    destruct (dec_eq_nid nid id); subst; destruct_match; try congruence; simpl.
+    - (* nid = id, so s_set_call is relevant *)
+        rewrite upd_eq. unfold fnd. unfold low_proj.
+        destruct_match. simpl in *.
```
Comment (bMacSwigg) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:290]: @aferr I changed this to `simpl in *` at your suggestion (especially since I'd already been burned once by the hypothesis name changing). Otherwise, this proof is the same as it was by the end of #1710.

**Review by aferr — APPROVED** [review]

**Comment by aferr** [comment]
I hope you don't mind: I'm going to "squash and merge" this one because I think you are done and I have another PR I want to put in *after* yours so that it doesn't cause any merge issues.
